US04371696
4-(2,2-Diethoxyethylthiomethyl)pyridine
Under a nitrogen atmosphere, sodium methoxide (0.60 g., 11 moles) is dissolved in approximately 15 ml. of stirring ethanol and cooled in an ice bath. 4-Picolyl mercaptan (1.4 g., 11 mmoles) in approximately 3 ml. of absolute ethanol is added over 5 minutes and the mixture stirred for 15 minutes. Bromoacetaldehyde diethylacetal (2.4 g., 11 mmoles) in approximately 15 ml. of absolute ethanol is then added over 5 minutes. The reaction mixture is warmed to room temperature and stirred for 16 hours. The reaction mixture is filtered and the filtrate evaporated to yield title product, which if desired, can be further purified by chromatography on silica gel.

reactant | sodium methoxide | 11 moles, 0.60 g | C[O-].[Na+]
reactant | 4-Picolyl mercaptan | 11 mmoles, 1.4 g | N1=CC=C(C=C1)CS | C6H7NS
reactant | Bromoacetaldehyde diethylacetal | 11 mmoles, 2.4 g | C(C)OC(CBr)OCC | C6H13BrO2
solvent | ethanol | C(C)O | C2H6O
product | 4-(2,2-Diethoxyethylthiomethyl)pyridine | C(C)OC(CSCC1=CC=NC=C1)OCC | C12H19NO2S
